US07179823B1
A mixture of ethyl 3-[3-(4-methoxyphenyl)-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate (450 mg), 1N aqueous sodium hydroxide solution (2 ml), ethanol (3 ml), and tetrahydrofuran (3 ml) was stirred at room temperature for 1 hour. The reaction mixture was acidified with 1N hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The colorless crystals obtained were collected by filtration to yield 3-[3-(4-methoxyphenyl)-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid (350 mg, yield: 81%). This was recrystallized from ethyl acetate-hexane. Melting point: 137–138° C.

reactant | ethyl 3-[3-(4-methoxyphenyl)-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionate | 450 mg | COC1=CC=C(C=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C33H33N3O5
reactant | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-[3-(4-methoxyphenyl)-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]propionic acid | 350 mg, yield: 81% | COC1=CC=C(C=C1)C1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C31H29N3O5
